US07375087B2
3-(β-D-Galactopyranosyloxy)-5-isopropyl-4-{[4-(3-{1-[(piperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}propoxy)-2-methylphenyl]methyl}-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 99 using 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole and 1-(benzyloxycarbonyl)piperazine instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-carboxy-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole and 1-benzylpiperazine, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCC(NC(C)(C)C(=O)O)=O)C)C(C)C | C36H49N3O14
reactant | 1-(benzyloxycarbonyl)piperazine | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 3-(β-D-Galactopyranosyloxy)-5-isopropyl-4-{[4-(3-{1-[(piperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}propoxy)-2-methylphenyl]methyl}-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCC(NC(C)(C)C(=O)N1CCNCC1)=O)C)C(C)C | C32H49N5O9
